US05362744
N-Cyclohexyl-N'-(2,4-difluorophenyl)-N-(2-dodecyl-2H-tetrazol-5-yl)-urea
To a stirred mixture of N-cyclohexyl-2-dodecyl-2H-tetrazol-5-amine (0.3349 g, 0.0009981 mol) and diisopropylethylamine (1.7 mL, 0. 0098 mol) at room temperature under nitrogen atmosphere was added a 12.5 wt/wt % solution of phosgene in toluene (8 mL). The mixture was heated at 45° C. for 22 hours and allowed to cool. Excess phosgene was removed, and the mixture was rotoevaporated to a sludge. The residue was suspended in anhydrous tetrahydrofuran (25 mL), additional diisopropylethylamine (0.35 mL, 0. 0020 mol) and 2,4-difluoroaniline (0.11 mL, 0.0011 mol) were added, and the mixture was refluxed for 6 days. The mixture was partitioned between diethyl ether and 1M hydrochloric acid. The organic layer was washed with saturated sodium chloride, dried (Na2SO4), and rotoevaporated to an oil. The oil was chromatographed twice on silica gel: (80 g, 230-400 mesh) using PET ether-acetone (7:1) and (68 g, 230-400 mesh) using PET ether-acetone (40:1) to give the title compound as a yellow oil, yield 0.2995 g (61%). 1H NMR (CDCl3): δ 9.9 (s, 1H) , 8.2 (m, 1H) , 6.9 (m, 2H), 4.6 (m, 3H), 2.1 (m, 4H), 1.8 (m, 4H), 1.6 (m, 2H), 1.3 (m, 20H), 0.9 (t, 3H).

reactant | N-cyclohexyl-2-dodecyl-2H-tetrazol-5-amine | 0.0009981 mol, 0.3349 g | C1(CCCCC1)NC=1N=NN(N1)CCCCCCCCCCCC | C19H37N5
reactant | diisopropylethylamine | 1.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | diisopropylethylamine | 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,4-difluoroaniline | 0.0011 mol, 0.11 mL | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | N-Cyclohexyl-N'-(2,4-difluorophenyl)-N-(2-dodecyl-2H-tetrazol-5-yl)-urea | C1(CCCCC1)N(C(=O)NC1=C(C=C(C=C1)F)F)C=1N=NN(N1)CCCCCCCCCCCC | C26H40F2N6O
